US07074801B1
1-(6-Bromoquinolin-4-yl)piperidine-4-carboxylic acid (4-fluorophenyl)amide
0.34 mL triethylamine and 0.13 mL isobutyl chloroformate were added to a solution of 50 mg 1-(6-bromo-4-quinolyl)-4-piperidinecarboxylic acid in tetrahydrofuran (5 mL) with stirring under ice-cooling, and the mixture was stirred for 0.5 hour in a stream of nitrogen. To this solution was added a solution of 1.5 mL 4-fluoroaniline in tetrahydrofuran (8 mL), and the mixture was stirred at 60° C. for 2 hours. Water was added to the reaction mixture which was then extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and purified by NH silica gel column chromatography (ethyl acetate/hexane) to give 73 mg of the title compound as pale purple crystals.

reactant | triethylamine | 0.34 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.13 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-(6-bromo-4-quinolyl)-4-piperidinecarboxylic acid | 50 mg | BrC=1C=C2C(=CC=NC2=CC1)N1CCC(CC1)C(=O)O | C15H15BrN2O2
reactant | 4-fluoroaniline | 1.5 mL | FC1=CC=C(N)C=C1 | C6H6FN
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 1-(6-Bromoquinolin-4-yl)piperidine-4-carboxylic acid (4-fluorophenyl)amide | 73 mg | FC1=CC=C(C=C1)NC(=O)C1CCN(CC1)C1=CC=NC2=CC=C(C=C12)Br | C21H19BrFN3O
